US04824859
N-[4-(2-diethylaminoethoxy)phenyl]-N-[4,5-dihydro-1-phenyl-1H-pyrazol-3-yl]-N'-phenylurea
Phenylisocyanate (1.05 ml) was added dropwise to a solution of N-[4-(2-diethylaminoethoxy)phenyl]-4,5-dihydro-1-phenyl-1H-pyrazol-3-amine (2.4 g) in tetrahydrofuran (30 ml) and the solution heated to reflux for 4 hours. After cooling the solvent was removed and water added to the residue, which was then extracted with ether. The combined ether layer was washed with water and dried. Solvent was removed to give a solid which was recrystallised from ethyl acetate and petroleum ether to give the title compound (1.3 g) mp 140°-1°.

reactant | Phenylisocyanate | 1.05 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | N-[4-(2-diethylaminoethoxy)phenyl]-4,5-dihydro-1-phenyl-1H-pyrazol-3-amine | 2.4 g | C(C)N(CCOC1=CC=C(C=C1)NC1=NN(CC1)C1=CC=CC=C1)CC | C21H28N4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-[4-(2-diethylaminoethoxy)phenyl]-N-[4,5-dihydro-1-phenyl-1H-pyrazol-3-yl]-N'-phenylurea | 1.3 g | C(C)N(CCOC1=CC=C(C=C1)N(C(=O)NC1=CC=CC=C1)C1=NN(CC1)C1=CC=CC=C1)CC | C28H33N5O2
